Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
morphine / Keflex
 
Attending: ___.
 
Chief Complaint:
right rib pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
 ___ lives in a nursing home fell from standing while near a
refrigerator onto a chair with her right chest striking the arm
rest. No head strike or loss of consciousness. She had immediate
pain and send to the hospital for evaluation. She was sent to
___ where pan scan revealed right rib fractures ___
and a (very) small pneumothorax. She was transferred to ___ 
for
further evaluation
 
Past Medical History:
- CKD
- Osteoporosis
- Anemia
- Dysphagia
- Cervical radiculopathy
- Polyneuropathy
- Frequent falls
- Hx Basal cell carcinoma
- Hx Lentigo maligna
- Hx Squamous cell carcinoma of skin
- Hx Ankle fracture
- Hx Humerus fracture, proximal w/ shoulder arthroplasty ___
 
Social History:
___
Family History:
Mother with facial cancer. Didn't know her father. Sister 
healthy.

 
Physical Exam:
Physical examination upon admission:  ___
98  65  129/63  24  100% 2LNC
NAD, AAOx3
no stigmata of head trauma
stable midface, nontender
trachea midline
breathing well
right chest tender to palpation, no crepitus
RRR
abdomen soft, non-tender non-distended
pelvis stable
extremities non-tender

Physical examination upon discharge:  ___:

General:  NAD

vital signs:  991, hr=67, bp=96/61, rr=18, 98% room air

CV:  ns1, s2, no murmurs
LUNGS:  clear
ABDOMEN:  hypoactive BS, soft, non-tender
EXT:  hyperpigmentation lower ext. bil., + dp bil., no calf 
tendernesss bil
NEURO:  alert and oriented x 3, speech clear

 
Pertinent Results:
Hematology 
 GENERAL URINE INFORMATION Type Color ___ 
___ 23:09      Straw Clear 1.015 
 DIPSTICK URINALYSIS Blood Nitrite Protein Glucose Ketone 
Bilirub Urobiln pH Leuks 
___ 23:09    NEG NEG TR NEG NEG NEG NEG 6.5 SM  
 MICROSCOPIC URINE EXAMINATION RBC WBC Bacteri Yeast Epi TransE 
RenalEp 
___ 23:09    <1 2 FEW NONE 1 <1 

___:  ct scan abd and pelvis:

  
1. Acute fractures involving the right posterior lower ribs 8 
through 12 with increasing right lower lobe consolidation likely 
a combination of contusion and atelectasis.  No visible 
pneumothorax. 
2. Left lower lobe nodule measures 13 mm, follow-up CT in 3 
months advised to ensure stability/resolution. 
3. Biliary and pancreatic duct dilation appears appears stable 
since ___. If not already performed, MRCP for further 
evaluation on a 
non-emergent basis can be considered. 
4. Additional non-emergent findings as detailed above. 
 
 

___:  CXR:

Small persistent right apical pneumothorax.

___:  CXR:

No appreciable change in right apical pneumothorax.Right-sided 
effusion has increased when compared to ___, and must 
be followed up to ensure stability as there is concern for 
hemothorax in the setting of trauma. 
  
RECOMMENDATION(S):  Follow-up radiograph is recommended to 
ensure stability of right sided a fusion, as there is concern 
for hemothorax. 

___:  left shoulder:

Left shoulder prosthesis without evidence for ___ 
fracture or 
dislocation 

___:  left knee:

No acute osseous injury of the left knee. 

___:  chest x-ray:

Heart size and mediastinum are stable.  There is no change 
apical thickening.  
There is left basal the shin.  Overall the findings are similar 
to previous examination.

___:  chest x-ray:

Right apical pneumothorax not clearly delineated and certainly 
not enlarged since priors 

___:  CXR:

In comparison with the study of ___, there is again 
scarring at the 
apices with no definite pneumothorax.  Continued low lung 
volumes.  Blunting of the costophrenic angles is consistent with 
small effusions and underlying compressive atelectasis. 
Multiple vertebro-plasties and bilateral shoulder prostheses are 
again seen. 
The multiple right rib fractures were better seen on a prior CT 
examination. 

 

  

 

 
Brief Hospital Course:
___ year old female admitted to the hospital after a mechanical 
fall in which she sustained right sided ___ rib fractures and a 
small right pneumothorax. She was transferred here for medical 
management.  Upon admission, the patient was made NPO, given 
intravenous fluids, and underwent imaging.  Cat scan imaging of 
the head and c-spine showed no acute fractures.  Additional 
imaging of the chest and pelvis showed a small right apical 
pneumothorax, 13x8 mm nodule left lower lobe and a 0.7 cm lesion 
in left hepatic lobe.  These findings will need further 
investigation.  

During the patient's hospitalization, her vital signs remained 
stable and she was afebrile.  She was instructed in the use of 
the incentive spirometer. Her rib pain was controlled with oral 
analgesia. She was tolerating a regular diet and voiding without 
difficulty.  She was evaluated by physical therapy and 
recommendations made for discharge to a rehabilitation facility. 
 The patient was discharged on HD #5 in stable condition. 

(telephone conversation with NP at facility for need to review 
current medications)   
 
Medications on Admission:
fluoxetine 20', gabapentin 600''', atrovent neb, Lasix 20',
levoxyl 75', Ativan 1'', omeprazole 20', trazodone 100HS'

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
please change to every 6 hours PRN as needed for pain after 
___  
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezes  
3.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
4.  Docusate Sodium 100 mg PO BID  
5.  Heparin 5000 UNIT SC BID 
continue until patient becomes ambulatory  
6.  Lidocaine 5% Patch 1 PTCH TD QPM  
7.  Omeprazole 20 mg PO DAILY  
8.  amLODIPine 5 mg PO DAILY  
9.  FLUoxetine 20 mg PO DAILY  
10.  Furosemide 20 mg PO DAILY  
11.  Gabapentin 600 mg PO TID  
12.  Ipratropium Bromide Neb 1 NEB IH Q6H  
13.  Levothyroxine Sodium 50 mcg PO DAILY  
14.  LORazepam 1 mg PO Q8H:PRN anxiety  
15.  TraZODone 100 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Trauma: mechanical fall

        right sided rib fractures, ___
        small right apical  pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital after a fall in which you 
sustained right sided rib fractures and a small collapse of your 
right lung.  Your vital signs have been stable and you are 
preparing for discharge to a rehabilitation center to help 
further regain your strength and mobility.  You are being 
discharged with the following instructions: 

   Your injury caused right sided_rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
*  You should take your pain medication as directed to stay 
ahead of the pain otherwise you won't be able to take deep 
breaths. If the pain medication is too sedating take half the 
dose and notify your physician.
 
*  Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
*  You will be more comfortable if you use a cough pillow to 
hold against your chest and guard your rib cage while coughing 
and deep breathing.
 
*  Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
*  Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
*  Do NOT smoke
 
*  If your doctor allows, non steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
*  Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs ( crepitus ). 

In addition to the rib fracture recommendations, I have included 
the following instructions:

You experience new chest pain, pressure, squeezing or tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

 
 
 
  
  
  
 

 
Followup Instructions:
___